US05834468
A mixture of 2-(phenethyl)benzoic acid (commercially available) (11.3 g), oxalyl chloride (5.2 ml), and DMF (2 drops) in dichloromethane (100 ml) was stirred for 1.5 hours. The resulting solution was evaporated and the residue dissolved in diglyme (75 ml) and cooled to -70° C. Li(OtBu)3H (100 ml of 0.5M solution in diglyme) was added dropwise over 45 minutes and the mixture stirred at -70° C. for 1 hour. The solution was poured into 2N aqueous hydrochloric acid and the mixture extracted with iso-hexane (3×100 ml). The combined extracts were washed with saturated aqueous sodium hydrogen carbonate, water and brine and dried (MgSO4). The solvent was evaporated and the residue purified by medium pressure chromatography on silica gel eluting with a mixture of dichloromethane and iso-hexane (1:1) to give 2-(phenethyl)benzaldehyde acid as a colourless oil (7.77 g).

reactant | 2-(phenethyl)benzoic acid | C(CC1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C15H14O2
reactant | oxalyl chloride | 5.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(phenethyl)benzaldehyde | 7.77 g | C(CC1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C15H14O
